US09353093B2
To the solution of 2-(4-amino-2-thienyl)-1H-indole-1-carboxamide (51.4 mg, 0.2 mmol, 1 eq) and 3-methyl-furan-2-carboxylic acid (25.2 mg, 1 eq) in anhydrous DCE (2 mL) was added 4-(dimethylamino)pyridine (4.9 mg, 0.2 eq) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (46.1 mg, 1.2 eq). After the reaction was stirred at 60° C. for 1 hour, it was diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper clear solution was decanted, concentrated, and the oily residue was subject to a gradient column chromatography (EtOAc-Hex 1:100 to 1:2) to yield 2-{4-[(3-methyl-2-furoyl)amino]-2-thienyl}-1H-indole-1-carboxamide as a yellow solid in amount of 42 mg.

reactant | 2-(4-amino-2-thienyl)-1H-indole-1-carboxamide | 0.2 mmol, 51.4 mg, 1 eq | NC=1C=C(SC1)C=1N(C2=CC=CC=C2C1)C(=O)N | C13H11N3OS
reactant | 3-methyl-furan-2-carboxylic acid | 25.2 mg, 1 eq | CC1=C(OC=C1)C(=O)O | C6H6O3
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 46.1 mg, 1.2 eq | Cl.CN(CCCN=C=NCC)C
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
catalyst | 4-(dimethylamino)pyridine | 4.9 mg, 0.2 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{4-[(3-methyl-2-furoyl)amino]-2-thienyl}-1H-indole-1-carboxamide | CC1=C(OC=C1)C(=O)NC=1C=C(SC1)C=1N(C2=CC=CC=C2C1)C(=O)N | C19H15N3O3S
